US07919506B2
N-(2-(1-methoxycyclohexyl)-5-(trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2-methyl-2H-tetrazol-5-amine
To a solution of N-(3,5-bis(trifluoromethyl)benzyl)-2-methyl-2H-tetrazol-5-amine (26 mg; 0.079 mmol) in tetrahydrofuran (0.3 mL) was added potassium t-butoxide (80 uL; 0.08 mmol; 1.0M in tetrahydrofuran). A solution of 2-(bromomethyl)-1-(1-methoxycyclohexyl)-4-(trifluoromethyl)benzene (25 mg; 0.071 mmol) in tetrahydrofuran (0.2 mL) was added. The reaction was stirred at room temperature for 3 hours. The reaction was quenched with 2 drops of water. The mixture was diluted with ethyl acetate and filtered through a column containing silica and sodium sulfate and concentrated. The residue was purified by 4 g RediSep column (Teledyne Isco Inc., Lincoln Nebr.) (eluted with 10-45% ethyl acetate in heptane) to give 25 mg (59%) of a colorless gum. MS (ES+): Calc: 595.5, Found: 596 (M+H). 1H NMR (400 MHz, CDCl3) δ ppm 7.77 (s, 1H), 7.73 (s, 2H), 7.48 (d, J=7.47 Hz, 2H), 7.42 (d, J=8.30 Hz, 1H), 5.14 (s, 2H), 4.79 (s, 2H), 4.20 (s, 3H), 2.92 (s, 3H), 2.12 (d, J=11.62 Hz, 2H), 1.77-1.52(m, 8H).

reactant | N-(3,5-bis(trifluoromethyl)benzyl)-2-methyl-2H-tetrazol-5-amine | 0.079 mmol, 26 mg | FC(C=1C=C(CNC=2N=NN(N2)C)C=C(C1)C(F)(F)F)(F)F | C11H9F6N5
reactant | potassium t-butoxide | 0.08 mmol, 1.0M, 80 uL | CC(C)([O-])C.[K+]
reactant | 2-(bromomethyl)-1-(1-methoxycyclohexyl)-4-(trifluoromethyl)benzene | 0.071 mmol, 25 mg | BrCC1=C(C=CC(=C1)C(F)(F)F)C1(CCCCC1)OC | C15H18BrF3O
solvent | tetrahydrofuran | 0.3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.2 mL | O1CCCC1 | C4H8O
product | N-(2-(1-methoxycyclohexyl)-5-(trifluoromethyl)benzyl)-N-(3,5-bis(trifluoromethyl)benzyl)-2-methyl-2H-tetrazol-5-amine | 25 mg, 59% | COC1(CCCCC1)C1=C(CN(C=2N=NN(N2)C)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(F)(F)F | C26H26F9N5O
